US05707985
3-(5-Chloro-2-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane
The title compound was prepared from the coupling of 3-azabicyclo[3.2.2]nonane and 5-chloro-2-naphthalenesulfonyl chloride. 3-Azabicyclo[3.2.2]nonane (0.31 g, 2.5 mmol) and diisopropyl ethyl amine (1.0 ml, 5.7 mmol) were dissolved in 10 ml chloroform. 5-Chloro-1-naphthalenesulfonyl chloride (0.50 g. 1.9 mmol) in 20 ml chloroform was added dropwise to the solution. After stirring overnight, the solution was washed with saturated sodium bicarbonate solution and brine. Drying over magnesium sulfate and evaporation followed by recrystallization with isopropyl ether/methanol gave 0.50 g (76% yield) of a yellow solid: mp 138°-139° C.; 1H NMR (CDCl3): 8.39 (d, J=8.9, 1 H, H3), 8.33 (d, J=1.7, 1 H, H1), 7.91-7.84 (m, 2 H, H4 and H6), 7.72 (d, J=7.5, 1 H, H8), 7.52 (t, J=7.9, 1 H, H7), 3.31 (d, J=4.2, 4 H, N (CH2R)2), 2.09 (s, 2 H, N(CH2CHR)2), 1.75-1.61 (m, 8 H, alkyl H's); anal calcd for C18H20 2 NO2SCl; C, 61.79; H, 5.76; N, 4.00; found: C, 61.89; H, 5.80; N. 4.08.

reactant | 3-azabicyclo[3.2.2]nonane | C12CNCC(CC1)CC2 | C8H15N
reactant | 5-chloro-2-naphthalenesulfonyl chloride | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | 3-Azabicyclo[3.2.2]nonane | 2.5 mmol, 0.31 g | C12CNCC(CC1)CC2 | C8H15N
reactant | diisopropyl ethyl amine | 5.7 mmol, 1.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-Chloro-1-naphthalenesulfonyl chloride | 1.9 mmol, 0.50 g | ClC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-Chloro-2-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)N1CC2CCC(C1)CC2 | C18H20ClNO2S
